US05411947
N-tritylethanolamine (2)
A mixture of ethanolamine, trityl chloride and pyridine was refluxed for 15 h. Water was added slowly to the cooled reaction and the precipitate collected by filtration. The crude product recrystallized from a 1:1 mixture of ethanol and water.

reactant | ethanolamine | C(O)CN | C2H7NO
reactant | trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | N-tritylethanolamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCO | C21H21NO
